US06087502
To 20 ml methanol was dissolved 500 mg/2.0 mmol of bis(4-hydroxy-3,5-dimethylphenyl)methane, and 886 mg/4.0 mmol of dicyanodichloroquinone was added to the solution at once in a stream of argon. After stirring at room temperature for 1 hour, the solvent was distilled off under reduced pressure. The residue was dissolved in ethyl acetate, and the insoluble matter was separated by filtration and re-concentrated. The resulting crude product was purified by silica gel column chromatography using methylene chloride for the eluting solution to obtain 230 mg of the desired 4,4'-dihydroxy-3,3',5,5'-tetramethylbenzophenone. MS: 270 (M+), 1H-NMR (CDCl3 /DMSO-d6): δ2.29 (12H, s), 7.41 (4H, s), 7.96 (2H, s).

reactant | bis(4-hydroxy-3,5-dimethylphenyl)methane | 2.0 mmol | OC1=C(C=C(C=C1C)CC1=CC(=C(C(=C1)C)O)C)C | C17H20O2
reactant | methanol | 20 ml | CO | CH4O
product | 4,4'-dihydroxy-3,3',5,5'-tetramethylbenzophenone | 230 mg | OC1=C(C=C(C(=O)C2=CC(=C(C(=C2)C)O)C)C=C1C)C | C17H18O3
